US09127014B2
Into a 5 L reactor equipped with an overhead stirrer and reflux condenser was dissolved N,N-dimethyl barbituric acid (32.56 g, 208.5 mmol) and tetrakis(triphenylphosphine)palladium[0](20.36 g, 17.6 mmol) in dichloromethane (1.5 L). The mixture was stirred at a temperature of about 20° C. Into the mixture was charged naloxone (110.90 g, 338.8 mmol) as a suspension in dichloromethane (1 L). The resulting reaction mixture was stirred at 38° C. for 16 hours. The mixture was cooled to a temperature of about 20° C. and the solids were filtered off under reduced pressure. The solids were washed with dichloromethane (5 L) followed by washing with water (2.5 L). The solids were dissolved into a 10:1 mixture of water:concentrated sulfuric acid at 40° C. The heated aqueous solution was washed with dichloromethane (0.5 L) and then basified to a pH of 9.05 with 28% ammonium hydroxide. The resulting solids were filtered and dried under reduced pressure at 100° C. for 20 hours to provide noroxymorphone as a white solid (87.12 g, 303.2 mmol).

reactant | naloxone | 338.8 mmol, 110.90 g | C=CCN1CC[C@]23C4=C5C=CC(=C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)O | C19H21NO4
solvent | dichloromethane | 1.5 L | ClCCl | CH2Cl2
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | noroxymorphone | 303.2 mmol, 87.12 g | CN1CC[C@]23[C@@H]4C(=O)C=C[C@]2([C@H]1CC5=C3C(=C(C=C5)O)O4)O | C17H17NO4
